US07115750B1
2-[4-[[(Benzyloxy)carbonyl]amino]phenyl]ethyl acetate
To an ethyl acetate (100 ml) suspension of 4-aminophenylethyl acetate (10 g), saturated aqueous sodium bicarbonate solution (100 ml) was added, and further, benzyloxycarbonyl chloride (12.3 ml) was added dropwise under ice-cooling. After stirring for 1 hour, hydrochloric acid was added to the reaction mixture to make it acidic, and extraction was conducted using ethyl acetate. The organic layer was washed with water and saturated aqueous sodium chloride solution, dried, and then concentrated. The residue was recrystallized from ethyl acetate-hexane, to give the titled compound (17.3 g).

reactant | 4-aminophenylethyl acetate | 10 g | C(C)(=O)OCCC1=CC=C(C=C1)N | C10H13NO2
reactant | sodium bicarbonate | 100 ml | C([O-])(O)=O.[Na+]
reactant | benzyloxycarbonyl chloride | 12.3 ml | C(C1=CC=CC=C1)OC(=O)Cl | C8H7ClO2
reactant | hydrochloric acid | Cl | ClH
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | 2-[4-[[(Benzyloxy)carbonyl]amino]phenyl]ethyl acetate | 17.3 g | C(C)(=O)OCCC1=CC=C(C=C1)NC(=O)OCC1=CC=CC=C1 | C18H19NO4
